US05436233
2-(2-(3-pyridyl)vinyl)quinazolin-4-one
A mixture of 2-methylquinazolin-4-one (6.1 g) and 3-pyridinecarbaldehyde (4.1 g) in acetic acid (80 mL) was heated to reflux for 20 hours. After cooling to room temperature, the precipitate was collected by filtration, washed with methanol and dried to obtain the title compound as an acetic acid salt (10.5 g).

reactant | 2-methylquinazolin-4-one | 6.1 g | CC1=NC2=CC=CC=C2C(N1)=O | C9H8N2O
reactant | 3-pyridinecarbaldehyde | 4.1 g | N1=CC(=CC=C1)C=O | C6H5NO
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 2-(2-(3-pyridyl)vinyl)quinazolin-4-one | N1=CC(=CC=C1)C=CC1=NC2=CC=CC=C2C(N1)=O | C15H11N3O
